US05389640
α,α--Dimethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol
Using the general method of Example 91, 3-amino-4-(2-hydroxy-2-methylpropylamino)quinoline (46.2 g. 0.20 mol) was reacted with ethoxyacetic acid (62.5 g, 0.6 mol) to provide 53.6 g of crude product as a greyish solid. A small amount was recrystallized from toluene to provide 3.6 g of a colorless solid, m.p. 117°-120° C.

reactant | 3-amino-4-(2-hydroxy-2-methylpropylamino)quinoline | 0.20 mol, 46.2 g | NC=1C=NC2=CC=CC=C2C1NCC(C)(C)O | C13H17N3O
reactant | ethoxyacetic acid | 0.6 mol, 62.5 g | C(C)OCC(=O)O | C4H8O3
product | α,α--Dimethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 3.6 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)COCC)(O)C | C17H21N3O2
